US09107916B2
A. 2-{5-[(4-chloro-3-fluorobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-chloro-3-fluorophenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.21 (2H, s), 5.72 (1H, d, J=1.6 Hz), 7.15 (1H, d, J=8.0 Hz), 7.28 (1H, dd, J=1.6 Hz, J=9.6 Hz), 7.40-7.44 (2H, m), 7.57 (1H, d, J=2.08 Hz), 8.04 (1H, s), 8.70 (1H, d, J=4.8 Hz). [M+H] Calc'd for C16H10ClFN4O, 329. Found, 329.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-chloro-3-fluorophenyl)methanol | ClC1=C(C=C(C=C1)CO)F | C7H6ClFO
product | 2-{5-[(4-chloro-3-fluorobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile | ClC1=C(C=C(COC2=CC=NN2C2=NC=CC(=C2)C#N)C=C1)F | C16H10ClFN4O
